Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, chills, n/v. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p L cavernous carotid aneurysm coil at ___ approx.
___ years ago. Aneurysm is not believed to have ruptured per
patient, she originally presented with diplopia. She has 
residual
L ptosis/diplopia which has been worsening over past few years.
Ptosis has progressed and over the past few weeks she has been
unable to open her L eye. Also c/o L facial numbness x 1 week
that is now improving. She presented to OSH today due to
nausea/vomiting/diarrhea/chills, and was found on CT head to 
have
what appeared to be an enlarging 9mm aneurysm (compared to ___
scan). Her n/v/d symptoms has since resolved, but she was sent 
to
___ for neurosurgery evaluation.  

ROS: +diplopia with both eyes open. Denies current headache,
nausea, vomiting, weakness, numbness, dizziness.

 
Past Medical History:
- aneurysm coiling ___, residual L ptosis
- rheumatoid arthritis
- HTN
- R knee replacement
- hypothyroidism s/p thyroidectomy for goiter
- h/o ocular migraines 

ALLERGIES: NKDA

 
Social History:
___
Family History:
father with CAD, TIA. Mother with stroke in ___
and fatal aneurysm rupture at 58. Healthy siblings. 

 
Physical Exam:
O: T: 99.5 BP: 126/73     HR: 74    R: 18      O2Sats: 96% RA
Gen: WD/WN, comfortable, NAD.
Neck: Supple.
Lungs: Non labored breathing 
Cardiac: RRR. 
Abd: Soft, NT
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II, III, IV, VI: L pupil 5 mm, restricted EOM, only able to look
straight and left. R pupil 4->2, full EOM intact. 
V, VII: Facial strength and sensation intact and symmetric 
(prior
numbness this week has resolved).
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

Coordination: normal on finger-nose-finger

EXAM ON DISCHARGE: 
L ptosis, L pupil 5 mm and EOM restricted to straight and left 
only. R reactive and full EOM. ___. No drift. SAR ___ 

 
Pertinent Results:
CTA HEAD: ___
IMPRESSION: 
1. No infarct or hemorrhage. 
2. Coil embolization of a previous left internal carotid artery 
aneurysm. 
3. New 12 x 11 mm aneurysm superior to the previously coiled 
aneurysm, 
possibly arising from the left M1 segment. 
4. New aneurysmal dilatation of the supra clinoid left internal 
carotid artery measuring up to 13 x 8 mm. 
5. New 6 mm aneurysm arising from the right M1 of the MCA, 
proximal to the M2 bifurcation. 
6. Otherwise patent intracranial vasculature without significant 
stenosis or occlusion. 
7. Scattered cervical atherosclerotic disease with mild 
narrowing at the 
origin of the bilateral vertebral arteries, moderate narrowing 
at the origin of the left common carotid artery, moderate 
narrowing of the origin of the left subclavian artery and 30% 
stenosis of the right internal carotid artery by NASCET 
criteria. 
8. Otherwise patent cervical vasculature without occlusion or 
dissection. 

 
Brief Hospital Course:
Mrs. ___ was admitted to the neurosurgical floor with 2 new 
aneurysms one arising from previous coiled aneurysm. She 
remained neurologically and hemodynamically stable. The plan was 
to go for diagnostic angiogram with possible PED for ___. 
However, the patient decided she would prefer to undergo the 
surgery at a later date, after she has spoken to her 
ophthalmologist. Dr. ___ Dr. ___ a long discussion 
with the patient, that the aneurysm previously coiled at ___ had 
massively reanalyzed and there was a substantial risk of 
hemorrhage. However the patient elected not to have it done on 
this admission and will follow up in outpatient clinic with Dr. 
___ or at ___.
The patient was instructed to make an appointment with Dr. 
___ ___ for OR planning. The patient expressed 
readiness to be discharged home and stated she has a lot of 
support at home. 
 
Medications on Admission:
ASA 81, methotrexate 10 mg weekly, synthroid ___ mcg, plaquenil
200 daily, Sulindac 200 daily, folic acid 1mg bid, atenolol 25 
mg
daily, MV, Vit B, cal-cab/Vit D, Selenium 200 mcg daily, fish 
oil

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
Do not exceed more than 4 grams in 24hrs.   
2.  Docusate Sodium 100 mg PO BID  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atenolol 25 mg PO DAILY  
6.  Calcium Carbonate 1500 mg PO Q12H  
7.  Doxycycline Hyclate 100 mg PO Q12H  
8.  FoLIC Acid 2 mg PO DAILY  
9.  Hydroxychloroquine Sulfate 200 mg PO BID  
10.  Levothyroxine Sodium 100 mcg PO DAILY  
11.  Methotrexate 5 mg PO QTHUR  
12.  Multivitamins 1 TAB PO DAILY  
13.  selenium 200 mcg oral DAILY  
14.  Vitamin D 600 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions
Dr. ___ aneurysms

___
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and/or Plavix/Brilinta. If so, do not take any other products 
that have aspirin in them. If you are unsure of what products 
contain Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___